US05576340
2-[2-(4-Methoxycarbonylmethyl-2-hydroxyphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol (Compound No. 3-23)
Following a procedure similar to that described in Example 6, but using 2 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 3.07 g of methyl 3-hydroxy-4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 34), 70 ml of dry benzene, 60 ml of absolute methanol and 1.7 g of sodium cyanoborohydride, and then purifying the reaction product by column chromatography through silica gel, using ethyl acetate as the eluent, 2.62 g of the title compound were obtained as crystals, melting at 68° C.

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 2 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 3-hydroxy-4-(2-oxopropoxy)phenylacetate | 3.07 g | OC=1C=C(C=CC1OCC(C)=O)CC(=O)OC | C12H14O5
reactant | benzene | 70 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 1.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethyl-2-hydroxyphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | 2.62 g | COC(=O)CC1=CC(=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1)O | C20H24ClNO5
